US07915268B2
Synthesis of 3-(5-nitro-4-thiocyanatopyrimidin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile
To the solution of 0.58 g (1.25 mmol) 4-(2,4-dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile in 10 mL 30% (v/v) TFA in DCM was added 0.01 mL of triethylsilane. The mixture was stirred for 0.5 hr. LCMS indicated the completion of de-protection. A red residue was obtained after removing the volatiles on rotary evaporator, and was suspended (majority dissolved) in 10 mL 1:1 trimethyl orthoformate: MeOH. The resulting mixture was stirred for 2 hrs at room temperature. Yellow solids were precipitated. Desired product (0.38 g, 95% overall yield) was obtained after suction filtration and washing with cold MeOH twice.

reactant | 4-(2,4-dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile | 1.25 mmol, 0.58 g | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)SC#N)[N+](=O)[O-])C=CC(=C1)OC | C21H17N7O4S
reactant | triethylsilane | 0.01 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(5-nitro-4-thiocyanatopyrimidin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | 0.38 g, 95% | [N+](=O)([O-])C=1C(=NC(=NC1)N1C=NC2=C1C=C(C=C2)C#N)SC#N | C13H5N7O2S
